US06403578B1
a) N-(t-butoxycarbonyl)-N-methyl-2-(1-methyl-pyrid-4-yl)ethanamine
A mixture of N-methyl-2-(pyrid-4-yl)ethanamine (4.1 g, 30 mmol), di-t-butyl dicarbonate (26.2 g, 120 mmol) and triethylamine (15.2 g, 150 mmol) in dichloromethane (100 mL) was stirred for 16 h, concentrated, and the residue was diluted with water and extracted with dichloromethane. The organic phase was washed, dried (magnesium sulfate) and concentrated. The residue was chromatographed (silica gel, 5% methanol:dichloromethane) to give the title compound (4 g, 56%).

reactant | N-methyl-2-(pyrid-4-yl)ethanamine | 30 mmol, 4.1 g | CNCCC1=CC=NC=C1 | C8H12N2
reactant | di-t-butyl dicarbonate | 120 mmol, 26.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 150 mmol, 15.2 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | N-(t-butoxycarbonyl)-N-methyl-2-(1-methyl-pyrid-4-yl)ethanamine | 4 g, 56% | C(C)(C)(C)OC(=O)N(CCC1=CCN(C=C1)C)C | C14H24N2O2
